US04241069
4'-t-butyl-3-methylene flavanone
A mixture of 22.7 g (0.14 mol) of 4-t-butylbenzaldehyde, 19 g (0.14 mol) of 2-hydroxyacetophenone, 38 g (0.1 mol) of borax, 250 ml of H2O and 150 ml of ethanol was refluxed for one day. The reaction was cooled and diluted with an equal volume of H2O and extracted with ether. The ether was washed with brine, dried over anhydrous Na2SO4, filtered, and evaporated to give a brown oil. The oil was chromatographed on 1200 g of silica gel, eluting with benzene. The desired product was obtained as an oil. Recrystallization from petroleum ether gave 2.8 g of 4'-t-butyl flavanone as white crystals, m.p. 103°-104° C.

reactant | 4-t-butylbenzaldehyde | 0.14 mol, 22.7 g | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | 2-hydroxyacetophenone | 0.14 mol, 19 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | ethanol | 150 ml | C(C)O | C2H6O
solvent | H2O | O | H2O
solvent | H2O | 250 ml | O | H2O
product | 4'-t-butyl-3-methylene flavanone | C(C)(C)(C)C1=CC=C(C2OC3=CC=CC=C3C(C2=C)=O)C=C1 | C20H20O2
